US08492582B2
Water (1.1 mL), 2-bromopyridine (0.11 mL), sodium carbonate (0.21 g), and bis(triphenylphosphine)palladium(II) dichloride (14 mg) were added to a solution of ethylene glycol dimethyl ether (3.5 mL) of the obtained benzyl 2-(benzyloxy)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate, followed by heating to reflux under a nitrogen atmosphere for 1 hour and 30 minutes. After cooling the reaction mixture to room temperature, 2-bromopyridine (0.11 mL), sodium carbonate (0.21 g), and bis(triphenylphosphine)palladium(II) dichloride (14 mg) were added thereto, followed by heating to reflux under a nitrogen atmosphere for 1 hour and 30 minutes. After cooling the reaction mixture to room temperature, water and ethyl acetate were added thereto, and the insoluble substance was removed by filtration. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [Fuji Silysia Chemical Ltd., PSQ100B (spherical), eluent: 100-80% hexane/ethyl acetate] to obtain 0.18 g of benzyl 2-(benzyloxy)-4-(pyridin-2-yl)benzoate.

reactant | 2-bromopyridine | 0.11 mL | BrC1=NC=CC=C1 | C5H4BrN
reactant | sodium carbonate | 0.21 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | benzyl 2-(benzyloxy)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | C(C1=CC=CC=C1)OC1=C(C(=O)OCC2=CC=CC=C2)C=CC(=C1)B1OC(C(O1)(C)C)(C)C | C27H29BO5
reactant | 2-bromopyridine | 0.11 mL | BrC1=NC=CC=C1 | C5H4BrN
reactant | sodium carbonate | 0.21 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 14 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 14 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | ethylene glycol dimethyl ether | 3.5 mL | COCCOC | C4H10O2
solvent | Water | 1.1 mL | O | H2O
product | benzyl 2-(benzyloxy)-4-(pyridin-2-yl)benzoate | 0.18 g | C(C1=CC=CC=C1)OC1=C(C(=O)OCC2=CC=CC=C2)C=CC(=C1)C1=NC=CC=C1 | C26H21NO3
